US06576766B1
(c) 3-[3,4-bis-(Diethoxy-phosphoryl)-phenyl]-2-tert-butoxycarbonylamino-propionic Acid Methyl Ester
To 3-(3,4-Bis-trifluoromethanesulfonyloxy-phenyl)-2-tert-butoxycarbonylamino-propionic acid methyl ester (2 g, 3.47 mmol), diethyl phosphite (1 mL, 7.65 mmol) and 4-methyl morpholine (0.93 mL, 8.3 mmol) in MeCN (10 ml) was added Pd(Ph3)4 (167 mg, 0.15 mmol). The mixture was allowed to stirred for two days at 95° C. then diluted with saturated NH4Cl and extracted with EtOAc. The organic layer was dried over magnessium sulfate, concentrated, and chromatographed over silica gel (5% MeOH/EtOAc) to an oil (0.2 g 37% yield). MS [M+H]+ 552 and [M+Na] 574.

reactant | 3-(3,4-Bis-trifluoromethanesulfonyloxy-phenyl)-2-tert-butoxycarbonylamino-propionic acid methyl ester | 3.47 mmol, 2 g | COC(C(CC1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)OS(=O)(=O)C(F)(F)F)NC(=O)OC(C)(C)C)=O | C17H19F6NO10S2
reactant | diethyl phosphite | 7.65 mmol, 1 mL | P(OCC)(OCC)[O-]
reactant | 4-methyl morpholine | 8.3 mmol, 0.93 mL | CN1CCOCC1 | C5H11NO
solvent | MeCN | 10 ml | CC#N | C2H3N
solvent | NH4Cl | [NH4+].[Cl-]
product | 3-[3,4-bis-(Diethoxy-phosphoryl)-phenyl]-2-tert-butoxycarbonylamino-propionic Acid Methyl Ester | 37% yield | COC(C(CC1=CC(=C(C=C1)P(=O)(OCC)OCC)P(=O)(OCC)OCC)NC(=O)OC(C)(C)C)=O | C23H39NO10P2
